US07208494B2
i) 6-Chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester
A solution of 0.53 g (1.56 mmol) 6-chloro-5-methyl-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in 8 mL dichloromethane was cooled to 0° C., 1.44 mL (2.14 g, 18.8 mmol) trifluoroacetic acid was added and the cooling bath removed. After 2 h the volatile components were removed and the residue was poured into saturated aqueous sodium bicarbonate solution and extracted twice with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The resulting off-white solid (91.1%) was used without further purification.

reactant | 6-chloro-5-methyl-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 1.56 mmol, 0.53 g | CCOC(=O)C1=CC=2C(=NC(=C(C2)C)Cl)N1C(=O)OC(C)(C)C | C16H19ClN2O4
reactant | trifluoroacetic acid | 18.8 mmol, 1.44 mL, 2.14 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 6-Chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=NC(=C(C2)C)Cl)N1 | C11H11ClN2O2
